US07517896B2
Methyl 4-{[(2-{5-fluoro-2-[(4′-methyl-1,1′-biphenyl-4-yl)methoxy]phenyl}ethyl)(5-methoxy-5-oxopentyl)amino]methyl}benzoate
447 mg (0.93 mmol) of methyl 4-({(5-methoxy-5-oxopentyl)[2-(5-fluoro-2-hydroxyphenyl)ethyl]amino}methyl)benzoate from Ex. XII and 277 mg (1.02 mmol) of 4-(chloromethyl)-4′-(trifluoromethyl)-1,1′-biphenyl are dissolved in 10 ml of acetonitrile. 455 mg (1.40 mmol) of caesium carbonate and a spatula tip of potassium iodide are added, and the mixture is heated at reflux for 48 hours. The suspension is filtered and concentrated and the residue is chromatographed over silica gel using cyclohexane:ethyl acetate (5:1).

reactant | methyl 4-({(5-methoxy-5-oxopentyl)[2-(5-fluoro-2-hydroxyphenyl)ethyl]amino}methyl)benzoate | 0.93 mmol, 447 mg | COC(CCCCN(CCC1=C(C=CC(=C1)F)O)CC1=CC=C(C(=O)OC)C=C1)=O | C23H28FNO5
reactant | 4-(chloromethyl)-4′-(trifluoromethyl)-1,1′-biphenyl | 1.02 mmol, 277 mg | ClCC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C14H10ClF3
reactant | caesium carbonate | 1.40 mmol, 455 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Methyl 4-{[(2-{5-fluoro-2-[(4′-methyl-1,1′-biphenyl-4-yl)methoxy]phenyl}ethyl)(5-methoxy-5-oxopentyl)amino]methyl}benzoate | FC=1C=CC(=C(C1)CCN(CCCCC(=O)OC)CC1=CC=C(C(=O)OC)C=C1)OCC1=CC=C(C=C1)C1=CC=C(C=C1)C | C37H40FNO5
